US07795436B2
A 0.5 M THF solution of (3-bromophenyl)magnesium bromide (20 mL, 10 mmol) was cooled to −15° C., and methyl 1-benzyl-1,2,3,6-tetrahydropyridine-4-carboxylate (1.05 g, 4.3 mmol) in toluene (3.0 mL) was slowly added for 3 h at −15° C. The reaction mixture was warmed to 20° C. and quenched by addition of saturated NH4Cl aqueous solution followed by extraction with EtOAc. The combined organic solution was dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed in silica gel column (Hex/EtOAc 9/1) to give methyl 1-benzyl-3-(3-bromophenyl)piperidine-4-carboxylate (1.0 g, 2.6 mmol).

reactant | THF | 0.5 M | C1CCOC1 | C4H8O
reactant | (3-bromophenyl)magnesium bromide | 10 mmol, 20 mL | BrC=1C=C(C=CC1)[Mg]Br
reactant | methyl 1-benzyl-1,2,3,6-tetrahydropyridine-4-carboxylate | 4.3 mmol, 1.05 g | C(C1=CC=CC=C1)N1CCC(=CC1)C(=O)OC | C14H17NO2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 1-benzyl-3-(3-bromophenyl)piperidine-4-carboxylate | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OC)C1=CC(=CC=C1)Br | C20H22BrNO2
